US04410536
9-Methyl-1-phenyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 5, from 14 g of 5-hydrazino-3-phenylbenzothiophene hydrochloride and 6.2 g of 1-methyl-4-piperidone. Melting point: >250° C. (decomposition)

reactant | 5-hydrazino-3-phenylbenzothiophene hydrochloride | 14 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C2=CC=CC=C2)C1
reactant | 1-methyl-4-piperidone | 6.2 g | CN1CCC(CC1)=O | C6H11NO
product | 9-Methyl-1-phenyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | CN1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C4=CC=CC=C4)CC1 | C20H18N2S
